US08084620B2
Step 1 A solution of 3-bromo-2-methylaniline (0.67 g, 3.60 mmol) in DCM (18 mL) was treated dropwise with trimethylaluminum (2 M in toluene, 1.801 mL, 3.60 mmol) and the resulting solution was stirred at rt for 30 min. A solution of 3-oxo-1,3-dihydroisobenzofuran-5-carbonitrile (0.573 g, 3.60 mmol) in DCM (18.00 mL) was added and the resulting mixture was stirred at rt overnight. The mixture was diluted with DCM, washed with an aqueous solution of sodium potassium tartrate (Fehling's Reagent II) and water, then was dried and concentrated. The residue was purified by column chromatography (eluting with a gradient from 80:20 hexane-EtOAc to EtOAc) to provide N-(3-bromo-2-methylphenyl)-5-cyano-2-(hydroxymethyl)benzamide as a white solid (170 mg, 14%) which was used without further purification. Mass spectrum m/z 345, 347 (M+H)+.

reactant | 3-bromo-2-methylaniline | 3.60 mmol, 0.67 g | BrC=1C(=C(N)C=CC1)C | C7H8BrN
reactant | trimethylaluminum | 3.60 mmol, 2 M, 1.801 mL | C[Al](C)C
reactant | 3-oxo-1,3-dihydroisobenzofuran-5-carbonitrile | 3.60 mmol, 0.573 g | O=C1OCC2=CC=C(C=C12)C#N | C9H5NO2
solvent | DCM | 18 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 18.00 mL | C(Cl)Cl | CH2Cl2
product | N-(3-bromo-2-methylphenyl)-5-cyano-2-(hydroxymethyl)benzamide | 170 mg, 14% | BrC=1C(=C(C=CC1)NC(C1=C(C=CC(=C1)C#N)CO)=O)C | C16H13BrN2O2
